US08084448B2
D. 5-[2-Hydroxy-4-(1H-pyrazol-3-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-[2-benzyloxy-4-(1-benzyloxymethyl-1H-pyrazol-3-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one in 10 mL of EtOH/water (1:1) is hydrogenated over 10% Pd/C (15 mg) at 1 atm for 18 h. The catalyst is filtered and the filtrate evaporated. The residue is re-dissolved in EtOH/HOAc (3:1) and hydrogenated over 10% Pd/C for 18 h. The catalyst is filtered and the filtrate evaporated to give the title compound: (M−1)−=293.

reactant | 5-[2-benzyloxy-4-(1-benzyloxymethyl-1H-pyrazol-3-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1=NN(C=C1)COCC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C26H24N4O5S
solvent | EtOH water | 10 mL | CCO.O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 5-[2-Hydroxy-4-(1H-pyrazol-3-yl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C1=NNC=C1)N1CC(NS1(=O)=O)=O | C11H10N4O4S
